US20010056109A1
1-Benzyl-5-(3-cyclohexylindan-1-ylidenemethyl)-1H-imidazole was prepared as 1-benzyl-5-(2-phenylindan-1-ylidenemethyl)-1H-imidazole above except that 3-cyclo-hexylindan-1-one was used as a starting material. The crude product as its hydro-chloride salt was used in the next step without purification.

reactant | 1-benzyl-5-(2-phenylindan-1-ylidenemethyl)-1H-imidazole | C(C1=CC=CC=C1)N1C=NC=C1C=C1C(CC2=CC=CC=C12)C1=CC=CC=C1 | C26H22N2
reactant | 3-cyclo-hexylindan-1-one | C1(CCCCC1)C1CC(C2=CC=CC=C12)=O | C15H18O
product | 1-Benzyl-5-(3-cyclohexylindan-1-ylidenemethyl)-1H-imidazole | C(C1=CC=CC=C1)N1C=NC=C1C=C1CC(C2=CC=CC=C12)C1CCCCC1 | C26H28N2
